US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.06 g) as starting compound was reacted and treated in the same manner as in Example 34 using methyl isothiocyanate (0.32 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.91 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-methylthioureido)propyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.06 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | methyl isothiocyanate | 0.32 ml | CN=C=S | C2H3NS
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.91 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-methylthioureido)propyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(=S)NC)C=C1Cl)OC | C18H28ClN5O2S
